US06211215B1
To a mixture of 3-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethylthio]phenyl]propionic acid (365 mg) and ethanol (10 ml) was added concentrated sulfuric acid (one drop) and heated for 4 hours under reflux. The reaction mixture was concentrated, to which was added saturated aqueous sodium bicarbonate, and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4), and concentrated under reduced pressure to give crystals of ethyl 3-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethylthio]phenyl]propionate (310 mg, 80%). Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 77-78° C.

reactant | 3-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethylthio]phenyl]propionic acid | 365 mg | C1(=CC=CC=C1)/C=C/C=1OC=C(N1)CSC1=CC=C(C=C1)CCC(=O)O | C21H19NO3S
reactant | ethanol | 10 ml | C(C)O | C2H6O
catalyst | sulfuric acid | one drop | S(O)(O)(=O)=O | H2O4S
product | ethyl 3-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethylthio]phenyl]propionate | 310 mg, 80% | C1(=CC=CC=C1)/C=C/C=1OC=C(N1)CSC1=CC=C(C=C1)CCC(=O)OCC | C23H23NO3S
